US07790290B2
6-1. Synthesis of Mono(2-phenoxyethyl)phthalic Acid
148.1 g of anhydrous phthalic acid and roughly the molar equivalent 139.3 g of 2-phenoxyethanol were added to a 500 ml glass round-bottomed flask equipped with stirring blades, thermometer and Dimroth condenser, heated while slowly stirring, and after the generated heat at about 90° C. wore off, raised to a temperature of 130° C., which was maintained for 1 hour. The mixture was subsequently cooled to 60° C. The acid value (number of mg of KOH necessary to neutralize 1 g of a sample) of the reaction solution was 212.6. Since the acid value for the case where the reaction is 100% complete is 202.2, the reaction rate was computed to be 95%.

reactant | phthalic acid | 148.1 g | C(C=1C(C(=O)O)=CC=CC1)(=O)O | C8H6O4
reactant | 2-phenoxyethanol | 139.3 g | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | KOH | [OH-].[K+]
product | Mono(2-phenoxyethyl)phthalic Acid | O(C1=CC=CC=C1)CCC1=C(C(C(=O)O)=CC=C1)C(=O)O | C16H14O5
